US05424443
2,4-Dichloro-6-fluoro-7-isothiocyanatobenzothiazole
A suspension of 16.9 g calcium carbonate in 100 ml water was added to a solution of 19.4 g thiophosgene in 100 ml dichloromethane. A solution of 40 g 7-amino-2,4-dichloro-6-fluorobenzothiazole in 500 ml dichloromethane was added, dropwise at 5° C., and the mixture stirred for 8 hours at room temperature. The solid was filtered, the phases were separated, and the organic phase dried over magnesium sulfate and concentrated. The residue was purified by column chromatography (eluent: hexane/ethyl acetate). Yield: 16 g=38% of theory m.p.: 80°-81° C.

reactant | calcium carbonate | 16.9 g | C([O-])([O-])=O.[Ca+2]
reactant | thiophosgene | 19.4 g | C(=S)(Cl)Cl | CCl2S
reactant | 7-amino-2,4-dichloro-6-fluorobenzothiazole | 40 g | NC1=C(C=C(C=2N=C(SC21)Cl)Cl)F | C7H3Cl2FN2S
solvent | water | 100 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 2,4-Dichloro-6-fluoro-7-isothiocyanatobenzothiazole | ClC=1SC2=C(N1)C(=CC(=C2N=C=S)F)Cl | C8HCl2FN2S2
